### PR TITLE
Add Boolean Rings

### PR DESCRIPTION
**Pull request by Freek98**
This PR introduces Boolean rings as idempotent commutative rings. 

We then proceed to show these rings allow for the usual symbols and satisfy the usual axioms for boolean algebras.

### CODE REVIEW

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 1]
```diff
@@ -0,0 +1,246 @@
...
+  infix  8 -_
+  infixl 7 _·_
+  infixl 6 _+_
+
+  open IsBooleanRing isBooleanRing public
+
+BooleanRing : ∀ ℓ → Type (ℓ-suc ℓ)
+BooleanRing ℓ = TypeWithStr ℓ BooleanStr
+
+BooleanStrToCommRingStr : { A : Type ℓ } →  BooleanStr A  → CommRingStr A
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:44]: The convention is to write an arrow instead of "To" in forgetful functions like this one. Example: "CommRing→Ring".

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 2]
```diff
@@ -0,0 +1,246 @@
...
+BooleanStrToCommRingStr x = record { isCommRing = IsBooleanRing.isCommRing (BooleanStr.isBooleanRing x) }
+
+BooleanRingToCommRing : BooleanRing ℓ → CommRing ℓ
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:47]: Same as above.

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 3]
```diff
@@ -0,0 +1,246 @@
...
+open import Cubical.Tactics.CommRingSolver
+
+
+private
+  variable
+   ℓ ℓ' : Level
+
+record IsBooleanRing {B : Type ℓ}
+              (𝟘 𝟙 : B) (_+_ _·_ : B → B → B) (-_ : B → B) : Type ℓ where
+
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:19]: You might want to add "no-eta-equality" here, since these fields will all consist of propositions only, so their definition should never be used anyway.

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 4]
```diff
@@ -0,0 +1,246 @@
...
+BooleanRingToCommRing : BooleanRing ℓ → CommRing ℓ
+BooleanRingToCommRing (carrier , structure ) = carrier , BooleanStrToCommRingStr structure
+
+module BooleanAlgebraStr (A : BooleanRing ℓ)  where
+  open BooleanStr (A . snd)
+  _∨_ : ⟨ A ⟩ → ⟨ A ⟩ → ⟨ A ⟩
+  a ∨ b = (a + b) + (a · b)
+  _∧_ : ⟨ A ⟩ → ⟨ A ⟩ → ⟨ A ⟩
+  a ∧ b = (a · b)
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:55]: Superfluous parathesis

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 5]
```diff
@@ -0,0 +1,246 @@
...
+  ¬Cancels∧R {x = x} =
+    x · (𝟙 + x)
+      ≡⟨ solve! (BooleanRingToCommRing A) ⟩
+    x + x · x
+      ≡⟨ cong (λ y → x + y) (·IsIdempotent x) ⟩
+    x + x
+      ≡⟨ -IsId ⟩
+    𝟘 ∎
+
+  ¬Cancels∧L : ((¬ x) ∧ x) ≡ 𝟘
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:203]: Same here

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 6]
```diff
@@ -0,0 +1,246 @@
...
+
+BooleanStrToCommRingStr : { A : Type ℓ } →  BooleanStr A  → CommRingStr A
+BooleanStrToCommRingStr x = record { isCommRing = IsBooleanRing.isCommRing (BooleanStr.isBooleanRing x) }
+
+BooleanRingToCommRing : BooleanRing ℓ → CommRing ℓ
+BooleanRingToCommRing (carrier , structure ) = carrier , BooleanStrToCommRingStr structure
+
+module BooleanAlgebraStr (A : BooleanRing ℓ)  where
+  open BooleanStr (A . snd)
+  _∨_ : ⟨ A ⟩ → ⟨ A ⟩ → ⟨ A ⟩
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:52]: Maybe you want to declare fixities for these operators as well?

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 7]
```diff
@@ -0,0 +1,246 @@
...
+      ≡⟨ solve! (BooleanRingToCommRing A)  ⟩
+    x + (x · y + x · x · y)
+      ≡⟨ cong (λ z → x + (x · y + z · y)) (·IsIdempotent x) ⟩
+    x + (x · y + x · y)
+      ≡⟨ cong (_+_ x) -IsId ⟩
+    x + 𝟘
+      ≡⟨ +IdR x ⟩
+    x ∎
+
+  ¬Cancels∧R : (x ∧ (¬ x)) ≡ 𝟘
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:193]: Superfluous parathesis

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 8]
```diff
@@ -0,0 +1,246 @@
...
+  ∧IsIdempotent : x ∧ x ≡ x
+  ∧IsIdempotent = ·IsIdempotent _
+
+  ∧Assoc : x ∧ ( y ∧ z ) ≡ ( x ∧ y ) ∧ z
+  ∧Assoc = ·Assoc _ _ _
+
+  ∧Comm :  (x ∧ y) ≡ (y ∧ x)
+  ∧Comm = ·Comm _ _
+
+  ∨Assoc : (x ∨ ( y ∨ z ) ≡ ( x ∨ y ) ∨ z )
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:70]: Superfluous paranthesis...

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 9]
```diff
@@ -0,0 +1,246 @@
...
+  ∨Assoc =  solve! (BooleanRingToCommRing A)
+
+  ∨Comm : (x ∨ y ) ≡ (y ∨ x)
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:73]: These paranthesis should be superfluous, at least if "∧" has the right fixity

File: Cubical/Algebra/BooleanRing/Base.agda [hunk 10]
```diff
@@ -0,0 +1,246 @@
...
+module BooleanAlgebraStr (A : BooleanRing ℓ)  where
+  open BooleanStr (A . snd)
+  _∨_ : ⟨ A ⟩ → ⟨ A ⟩ → ⟨ A ⟩
+  a ∨ b = (a + b) + (a · b)
+  _∧_ : ⟨ A ⟩ → ⟨ A ⟩ → ⟨ A ⟩
+  a ∧ b = (a · b)
+  ¬_ : ⟨ A ⟩ → ⟨ A ⟩
+  ¬ a = 𝟙 + a
+
+  variable x y z : ⟨ A ⟩
```
Comment (felixwellen) [inline Cubical/Algebra/BooleanRing/Base.agda:59]: It would be more in line with other laws of algebraic structures to use explicit arguments...
(Maybe NAMING.md should be changed to make that clear)

**Review by felixwellen — CHANGES_REQUESTED** [review]
Nice!
Only some nit-picking comments...

File: Cubical/Algebra/BooleanRing/Base.agda (hunk 4 above)
Comment (Freek98) [reply Cubical/Algebra/BooleanRing/Base.agda:55]: For \vee I think it helps in readability, do you agree?

File: Cubical/Algebra/BooleanRing/Base.agda (hunk 10 above)
Comment (Freek98) [reply Cubical/Algebra/BooleanRing/Base.agda:60]: It varies and I'll leave it as is
